US08119805B2
Stage (i): tert-Butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate
tert-Butyl 2,7-diaza-spiro[4.4]nonane-2-carboxylic acid (4.419 mmol, 1 eq) and N-ethyl-diisopropylamine (17.674 mmol, 4 eq) were dissolved in 2-propanol (8 ml), 4-chloropyridine (13.256 mmol, 3 eq) was added and the mixture was heated at 90° C. for 16 h. Saturated sodium bicarbonate solution (20 ml) was added and the phases were separated. The aqueous phase was extracted with ethyl acetate (4×20 ml) and the combined org. phases were washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. After purification by column chromatography (silica gel, ethyl acetate/methylene chloride/methanol/ammonia (25 aq) (100:100:25:1), the desired product was obtained as a pale brown oil. Yield: 0.67 g (50%)

reactant | tert-Butyl 2,7-diaza-spiro[4.4]nonane-2-carboxylic acid | 4.419 mmol, 1 eq | C(C)(C)(C)C1N(CCC12CNCC2)C(=O)O | C12H22N2O2
reactant | N-ethyl-diisopropylamine | 17.674 mmol, 4 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-chloropyridine | 13.256 mmol, 3 eq | ClC1=CC=NC=C1 | C5H4ClN
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 8 ml | CC(C)O | C3H8O
product | tert-Butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate | N1=CC=C(C=C1)N1CC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C17H25N3O2
